Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion, UTI
 
Major Surgical or Invasive Procedure:
Cystoscopy with left ureter stent placement 
 
History of Present Illness:
___ with dementia and a history of stage III rectal cancer s/p 
neoadjuvant chemoradiation and surgery with unspecified bowel 
anastamosis in ___ who presents with confusion and agitation. 
Per ___ records and wife, he has had a decline in his 
functional and mental status for several months, especially for 
the last three weeks. He does have baseline dementia, but his 
wife reports he is not responding in conversations and not 
completing tasks that he used to. Given his decline, he was 
taken to ___ where he had a positive UA and was 
given 1 g ceftriaxone and 1 g meropenem. VS 98.3 111/73, 90, 18 
98% RA. Labs showed WBC of 8.9, Hb 11.1, Hct 33.4, creatinine 
0.8. A CT scan obtained there showed worsening air in the pelvis 
around the anastomotic site as well as new left hydroureter, 
inflammation of the bladder and air in the bladder. The patiet 
was seen by surgery at ___ who thought that this was a 
chronic perforation and he should be evaluated for an 
entericovesicular fistula in addition to being treated for a 
UTI. The hospitalist surgeons conferred and opted to transfer to 
teritiary care given the complexity of the case  

In the ED here, initial vitals were: 101.1 68 111/55 16 97%. 
Labs here significant for WBC 7.5., Hgb ___, normal chemistry, 
lactate normal, INR 1.4. He was given 4.5 g of zosyn. Colorectal 
surgery consulted who recommended IV anbitiotics for UTI, 
urology consult for perc nephrostomy or ureteral stent, but no 
surgical intervention. Blood cultures were obtained and patient 
was sent to the floor.  
  
He received an additional dose of zosyn, which was switched to 
aztreonam due to concern zosyn was contributing to his altered 
mental status. Due to increase agitation, olanzapine was 
started.  He is currently on aztreonam, vancomycin, and flagyl.
 
Past Medical History:
-stage III rectal cancer s/p neoadjuvant chemoradiation and 
definitive surgery in ___. No evidence of brain mets on brain 
MRI in ___  
-Dementia 
 
Social History:
___
Family History:
Mother died of cancer, father with vascular problems.
 
Physical Exam:
On presentation:

Vitals: 99.2 115/68 85 18 98% RA  
General: Agitated, unable to assess orientation given 
uncooperative  
Psych: Oscillates between calm and agitated  
UNABLE TO OBTAIN THE REST OF THE PHYSICAL EXAM  

At discharge:

VS: 97.8  ___  18  98%
GENERAL:laying still, unresponsive to questioning, unable to 
assess orientation
CV: RRR, nl s1s2 without mrg
Abd: No grimace to palpation, not rigid or guarding
Rest of physical exam was deferred. 

 
Pertinent Results:
___ 05:20PM   PLT COUNT-311
___ 05:20PM   NEUTS-91.4* LYMPHS-3.5* MONOS-4.1 EOS-0.6 
BASOS-0.3
___ 05:20PM   WBC-7.5 RBC-4.02* HGB-11.3* HCT-33.0* MCV-82 
MCH-28.1 MCHC-34.2 RDW-15.0
___ 05:20PM   estGFR-Using this
___ 05:20PM   GLUCOSE-137* UREA N-11 CREAT-0.7 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-25 ANION GAP-14
___ 05:28PM   LACTATE-1.7
___ 05:28PM   ___ TEMP-38.3 PO2-53* PCO2-38 PH-7.48* 
TOTAL CO2-29 BASE XS-4 INTUBATED-NOT INTUBA
___ 05:39PM   ___ PTT-37.0* ___

Imaging
Ureteral Stent ___
IMPRESSION:    
Intraoperative images were obtained showing a left ureteral 
catheter and 
subsequent ureteral stent placement.  Please refer to the 
operative note for 
details of the procedure. 
  

Labs on Discharge

___ 10:04AM BLOOD WBC-5.6 RBC-3.86* Hgb-10.6* Hct-31.7* 
MCV-82 MCH-27.6 MCHC-33.6 RDW-15.1 Plt ___
___ 10:04AM BLOOD Glucose-134* UreaN-9 Creat-0.6 Na-138 
K-3.9 Cl-101 HCO3-26 AnGap-15
___ 10:04AM BLOOD Calcium-8.3* Phos-2.4* Mg-2.___ with dementia and a history of stage III rectal cancer s/p 
neoadjuvant chemoradiation and low anterior resection with bowel 
anastamosis in ___ that has been chronically leaking who 
presents with confusion/agitation, UTI in setting of 
enterovesicular fistula, and concern for worsening 
intra-abdominal process.

ACTIVE ISSUES:  

# Confusion/agitation: The patient presented with confusion and 
agitation in the setting of a UTI. His confusion and agitation 
were thought to be consistent with acute metabolic 
encephalopathy in addition to his baseline dementia. Given his 
alcohol history, AST 19 ALT 19 Alkphos 120 TBili 1.1 Albumin 
2.2, history of alcohol use but no signs of withdrawal or AMS 
secondary to ___. CT Head at OSH was negative for 
acute process. Due to worsening agitation and at times 
aggressive behavior, we prescribed a standing dose of haldol ___ 
mg scheduled for every afternoon as needed. This dosing regimen 
worked well for the patient and he remained calm in bed without 
requiring restraints. In addition, patient responded well to 
redirection techniques   

# UTI with left hydronephrosis/hydroureter: The patient 
presented to OSH with fever of 101.1 and infected UA. An outside 
CT of the abdomen/pelvis demonstrated a possible enterovesicular 
fistula and evidence of left hydroureter/hydronephrosis. The UTI 
was thought to be most likely secondary to an enterovesicular 
fistula.  Patient's UTI was initially treated with IV 
vancomycin, flagyl, and ceftriaxone. Urine cultures demonstrated 
Klebsiella pneumoniae >100,000. After losing IV access due to 
the patient pulling out his peripheral IVs and reviewing the 
urine culture sensitivity data, he was started on PO augmentin 
875 mg BID. Due to the enterovesicular fistula acting as a 
persistent source for UTIs in the future, the patient will need 
to stay on this antibiotic regimen indefinitely. Due to 
inflammation from the chronic anastomotic leak and evidence of 
left hydroureter/hydronephrosis on CT, the urology team 
performed a cystoscopy and left ureter stent placement without 
any complications. If in line with future hospice care, patient 
will need stent replaced in 3 months.  

CHRONIC ISSUES: 

#Rectal cancer with perforation at anastomotic site: This has 
been an issue for months and has been treated conservatively. 
Colorectal attending Dr. ___ talked with family and decided 
there is no need for imaging because patient not a suitable 
surgical candidate for repair of enterovesicular fistula. The 
only surgical consideration was a diverting ileostomy to help 
the enterovesicular fistula and anastamotic leak heal; however, 
after conversation with the family and palliative care, the 
decision was made to discharge the patient home with hospice 
services. The patient tolerated a full diet with any acute 
complications throughout this hospitalization. 

TRANSITIONAL ISSUES:
=================== 
-The patient will continue to be on suppressive antibiotics 
(Augmentin 875 mg PO BID) indefinitely given high likelihood of 
recurrent infections secondary to persistent enterovesicular 
fistula. He should be followed closely to determine if this 
regimen provides adequate coverage.  
-The patient is tolerating his haldol ___ mg PO QD regimen 
without good resolution of his agitation. If he is to remain on 
this regimen, his QTc should be monitored in the outpatient 
setting.  
-Moving forward, as family considers hospice care, pain 
management will become an important issue. Currently, the 
patient is not on any pain medication but may require it in the 
event of worsening recurrent disease and intra-abdominal 
processes.
-Follow-up with urology may be needed for stent replacement in 3 
months if in line with goals of care.    
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADOL (Ultram) 50 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. FoLIC Acid 1 mg PO DAILY 
3. Haloperidol ___ mg PO Q 4 ___ 
4. Miconazole Powder 2% 1 Appl TP QID:PRN Rash 
5. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Acute metabolic encephalopathy  
UTI

SECONDARY DIAGNOSES: 
Stage III rectal cancer s/p LAR with anastamotic leak
Dementia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___ 
___. You were admitted for confusion, agitation, and 
a urinary tract infection. Your infection was believed to be 
caused by a connection between your bowel and bladder. We 
treated your urinary tract infection with antibiotics. We 
believed your confusion and agitation was due to your urinary 
tract infection in addition to your baseline dementia. We 
treated your confusion and agitation with an antipsyhcotic 
medication that helped to calm you down. The urology team 
performed an exam of your bladder and placed a stent into the 
tube that connects your left kidney to your bladder to keep it 
open and let it drain. The colorectal surgery team decided not 
to do anything surgically after discussion with your family.  
After you felt better, we discharged you home with antibiotics 
(Augmentin 875 mg twice per day) and an antipsychotic medication 
(Haldol ___ mg at 4pm everyday or as needed). It is important 
that you continue to take these antibiotics every day to help 
prevent any future infection. It is also important to take your 
antipsychotic medication every day or as needed to help you 
relax. We recommend you see your primary care doctor ___. 
___ and the colorectal surgeon (Dr. ___ within ___ 
weeks in order to properly take care of you after leaving the 
hospital.  
  
Thank you for letting us take part in your care. 
 
Followup Instructions:
___